US04102808
The magnesium lauryl sulfate is desirably prepared from lauryl alcohol, resulting from the hydrogenation of lauric acid, but alternatively may be prepared from other fatty acids.

reactant | magnesium lauryl sulfate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Mg+2].C(CCCCCCCCCCC)OS(=O)(=O)[O-]
reactant | lauryl alcohol | C(CCCCCCCCCCC)O | C12H26O
product | lauric acid | C(CCCCCCCCCCC)(=O)O | C12H24O2
